US07335799B2
6.9 2,2,12,12-Tetramethyl-7-methylene-tridecanedioic acid diethyl ester
Under nitrogen atmosphere, a solution of phenyllithium (in diethyl ether:cyclohexane=30:70, 7.06 mL, 1.8 M, 12.7 mmol) was added dropwise over 10 min to a solution of methyltriphenylphosphonium iodide (5.52 g, 13.3 mmol) in anhydrous THF (40 mL) at room temperature. The reaction mixture was stirred at room temperature for 30 min, before 2,2,12,12-tetramethyl-7-oxo-tridecanedioic acid diethyl ester (4.5 g, 12.2 mmol) was added and the reaction mixture was stirred for 5 h at 50 □C. The resulting light-orange mixture was quenched by adding methanol (0.3 mL), and most of the solvent was removed on a rotary evaporator. The residue was purified by chromatography on silica (hexanes:ethyl acetate=95:5) to furnish the product (2.1 g, 47%) as an oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 4.67 (s, 2H), 4.10 (q, 4H, J=7.3 Hz), 1.97 (t, 4H, J=7.6 Hz), 1.6-1.3 (m, 8H), 1.30-1.15 (m, 10H), 1.15 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 178.0, 149.6, 108.6, 60.1, 42.1, 40.6, 35.8, 28.2, 25.1, 24.7, 14.2. HRMS (LSIMS, nba): Calcd. for C22H41O4 (MH+): 369.3004, found 369.3009.

reactant | phenyllithium | 12.7 mmol, 1.8 M, 7.06 mL | C1(=CC=CC=C1)[Li]
reactant | methyltriphenylphosphonium iodide | 13.3 mmol, 5.52 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2,2,12,12-tetramethyl-7-oxo-tridecanedioic acid diethyl ester | 12.2 mmol, 4.5 g | C(C)OC(C(CCCCC(CCCCC(C(=O)OCC)(C)C)=O)(C)C)=O | C21H38O5
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2,2,12,12-Tetramethyl-7-methylene-tridecanedioic acid diethyl ester | 2.1 g, 47% | C(C)OC(C(CCCCC(CCCCC(C(=O)OCC)(C)C)=C)(C)C)=O | C22H40O4
